US06043366
8-Cyclodecyl-1-phenyl-3-(2-piperidin-1-yl-ethyl)-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:2)
The title compound, white solid, m. p. 245° C. and MS: m/e=481.5 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 1-(2-chloroethyl)piperidine.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 1-(2-chloroethyl)piperidine | ClCCN1CCCCC1 | C7H14ClN
product | 8-Cyclodecyl-1-phenyl-3-(2-piperidin-1-yl-ethyl)-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCN2CCCCC2)=O)CC1 | InChI=1S/C30H48N4O.ClH/c35-29-30(18-22-32(23-19-30)27-14-8-4-2-1-3-5-9-15-27)34(28-16-10-6-11-17-28)26-33(29)25-24-31-20-12-7-13-21-31;/h6,10-11,16-17,27H,1-5,7-9,12-15,18-26H2;1H
